US07470680B2
To a solution of (S)-2-(4-chloro-8-oxo-9-(2,2,2-trifluoroethyl)-3,6,7,8,9,10-hexahydroazepino[3,4-e]indazol-7-yl)acetic acid (50 mg, 0.133 mmol) in DMF (2.0 mL) was added 5-(piperidin-4-yl)imidazolidine-2,4-dione (37 mg, 0.2 mmol) followed by 2-(1H-benzotriazol-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate (47 mg, 0.15 mmol) and triethylamine (1.0 mL). After 2 h, the solvent was removed under reduced pressure and the crude product was purified by Prep HPLC to give 5-(1-(2-((S)-4-chloro-8-oxo-9-(2,2,2-trifluoroethyl)-3,6,7,8,9,10-hexahydroazepino[3,4-e]indazol-7-yl)acetyl)piperidin-4-yl)imidazolidine-2,4-dione (30 mg) in 42% yield. 1H NMR (500 MHz, CD3OD): in δ 8.27 (s, 1H), 7.21 (s, 1H), 5.54 (d, J=17 Hz, 1H), 4.82 (d, J=17 Hz, 1H), 4.69-4.54 (m, 2H), 4.18-3.95 (m, 4H), 3.30-2.96 (m, 4H), 2.71-2.62 (m, 1H), 2.58-2.48 (m, 1H), 2.21-2.12 (m, 1H), 1.91-1.84 (m, 2H), 1.66-1.31 (m, 2H); MS (ESI) 541 (M+H); Rf=2.05.

reactant | (S)-2-(4-chloro-8-oxo-9-(2,2,2-trifluoroethyl)-3,6,7,8,9,10-hexahydroazepino[3,4-e]indazol-7-yl)acetic acid | 0.133 mmol, 50 mg | ClC1=CC2=C(C=3C=NNC13)CN(C([C@@H](C2)CC(=O)O)=O)CC(F)(F)F | C15H13ClF3N3O3
reactant | 5-(piperidin-4-yl)imidazolidine-2,4-dione | 0.2 mmol, 37 mg | N1CCC(CC1)C1C(NC(N1)=O)=O | C8H13N3O2
reactant | 2-(1H-benzotriazol-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate | 0.15 mmol, 47 mg | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | triethylamine | 1.0 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
product | 5-(1-(2-((S)-4-chloro-8-oxo-9-(2,2,2-trifluoroethyl)-3,6,7,8,9,10-hexahydroazepino[3,4-e]indazol-7-yl)acetyl)piperidin-4-yl)imidazolidine-2,4-dione | 30 mg, 42% yield | ClC1=CC2=C(C=3C=NNC13)CN(C([C@@H](C2)CC(=O)N2CCC(CC2)C2C(NC(N2)=O)=O)=O)CC(F)(F)F | C23H24ClF3N6O4
